US06184180B2
Synthesis of ethyl 11-(p-hydroxyphenoxy)undecanoate
In a 1000 ml pressure resistant flask equipped with a stirrer were charged 100.0 g of ethyl 11-(p-benzyloxyphenoxy)undecanoate synthesized in Synthetic example 1, 3.0 g of a 10% palladium-carbon, 400 ml of 1,4-dioxane and 200 ml of ethanol, and the mixture was heated to 60° C. and under pressurized conditions of an inner vessel pressure at 2.5 kgf/cm2, a hydrogen gas was passed through and the mixture was vigorously stirred for 3 hours. Insolubles were removed by filtration, and the filtrate was concentrated to precipitate crystals. The resulting crystals were washed with cooled n-hexane to obtain 73.4 g of the title compound.

reactant | ethyl 11-(p-benzyloxyphenoxy)undecanoate | 100.0 g | C(C1=CC=CC=C1)OC1=CC=C(OCCCCCCCCCCC(=O)OCC)C=C1 | C26H36O4
reactant | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 11-(p-hydroxyphenoxy)undecanoate | 73.4 g | OC1=CC=C(OCCCCCCCCCCC(=O)OCC)C=C1 | C19H30O4
